US07378417B2
5-(4-Chloro-phenyl)-7-propyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid
Subjecting ethyl 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine in analogous manner to the procedure described in Example C.26, but replacing the ethylzinc chloride/THF solution by a 0.4 M propylzinc chloride/THF solution (freshly prepared from ethylmagnesium chloride and zinc chloride), the title compound was obtained. White solid. MS (ISN) 314.1 [(M−H)−]; mp 208° C.

reactant | ethyl 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine | C(C)C1=NN2C(N=C(C=C2Cl)C2=CC=C(C=C2)Cl)=C1 | C14H11Cl2N3
reactant | ethylzinc chloride THF | [Cl-].C(C)[Zn+].C1CCOC1
reactant | propylzinc chloride THF | 0.4 M | [Cl-].C(CC)[Zn+].C1CCOC1
reactant | ethylmagnesium chloride | C(C)[Mg]Cl
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 5-(4-Chloro-phenyl)-7-propyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)CCC)N=CC2C(=O)O | C16H14ClN3O2
